datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CCOC(=O)COc1ccc(C(=O)c2ccc([O-:10])c(C[NH3+])c2)cc1.Nc1ncc2[nH]c(-c3ccccc3)[n+:21]([H:20])c2n1>>CCOC(=O)COc1ccc(C(=O)c2ccc([O:10][H:20])c(C[NH3+])c2)cc1.Nc1ncc2[nH]c(-c3ccccc3)[n:21]c2n1 10=20;20,21=21",
"C(Cc1nnn[n-]1)[NH2+]CC[NH+:21](CCc1nnn[n-]1)[H:20].Cc1cnc2c[n:10]cnc2n1>>C(Cc1nnn[n-]1)[NH2+]CC[NH:21]CCc1nnn[n-]1.Cc1cnc2c[n+:10]([H:20])cnc2n1 10=20;20,21=21",
"C1CNCCNCCC[NH:10]CCNC1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>C1CNCCNCCC[NH+:10]([H:20])CCNC1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCOC(=O)CCCC[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CCOC(=O)CCCC[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"C1=C(c2ccccc2)C2CC[N+:21]1([H:20])CC2.CCC1(c2ccccc2)C(=O)N(C)C(=S)[N-:10]C1=O>>C1=C(c2ccccc2)C2CC[N:21]1CC2.CCC1(c2ccccc2)C(=O)N(C)C(=S)[N:10]([H:20])C1=O 10=20;20,21=21",
"C[NH:10]CCCN1c2ccccc2CCc2ccccc21.N#C[CH:21](C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1)[H:20]>>C[NH+:10](CCCN1c2ccccc2CCc2ccccc21)[H:20].N#C[CH-:21]C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1 10=20;20,21=21",
"O=C(C(O)c1ccccc1)[O:21][H:20].ONc1nc[n:10]c2nc[nH]c12>>O=C(C(O)c1ccccc1)[O-:21].ONc1nc[n+:10]([H:20])c2nc[nH]c12 10=20;20,21=21",
"CCCC[O-:10].O=C(C1=CC=NC=C1)[CH:21](C1=CC=CC=C1)[H:20]>>CCCC[O:10][H:20].O=C(C1=CC=NC=C1)[CH-:21]C1=CC=CC=C1 10=20;20,21=21",
"COc1cc[n+:21]([H:20])cn1.Nc1nc(N)[n:10]c2c1cnn2-c1ccccc1>>COc1cc[n:21]cn1.Nc1nc(N)[n+:10]([H:20])c2c1cnn2-c1ccccc1 10=20;20,21=21",
"O=C(Oc1ccc([N+](=O)[O-])cc1)[C@@H]1CCC[C@@H]1[NH2:10].O=C1C=C(c2ccccc2)Oc2c1cccc2[O:21][H:20]>>O=C(Oc1ccc([N+](=O)[O-])cc1)[C@@H]1CCC[C@@H]1[NH2+:10][H:20].O=C1C=C(c2ccccc2)Oc2c1cccc2[O-:21] 10=20;20,21=21",
"CC[N:10](CC)CC(=N[O-])C(C)=NO.O=C(c1cc([N+](=O)[O-])ccc1O)[O:21][H:20]>>CC[N+:10](CC)(CC(=N[O-])C(C)=NO)[H:20].O=C(c1cc([N+](=O)[O-])ccc1O)[O-:21] 10=20;20,21=21",
"Cc1ccc([O-:10])c([O-])c1.O=C(C1=CC=CC=C1)[C:21](C1=CC=CC=C1)([N+](=O)[O-])[H:20]>>Cc1ccc([O:10][H:20])c([O-])c1.O=C(C1=CC=CC=C1)[C-:21](C1=CC=CC=C1)[N+](=O)[O-] 10=20;20,21=21",
"CC(C)(/C=C/C(=O)[O-])c1cc(Br)ccc1[O-:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC(C)(/C=C/C(=O)[O-])c1cc(Br)ccc1[O:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC(=NO)C(C[N+:21](C)(C)[H:20])=NO.CCN(CC)Cc1ccccc1[O-:10]>>CC(=NO)C(C[N:21](C)C)=NO.CCN(CC)Cc1ccccc1[O:10][H:20] 10=20;20,21=21",
"Cc1c(N)cnc[n+:21]1[H:20].O=C(CBr)[O-:10]>>Cc1c(N)cnc[n:21]1.O=C(CBr)[O:10][H:20] 10=20;20,21=21",
"O=C1CNC(=O)C(CC(=O)[O:21][H:20])N1.[O-]c1ccc(/C=N/[O-:10])cc1>>O=C1CNC(=O)C(CC(=O)[O-:21])N1.[O-]c1ccc(/C=N/[O:10][H:20])cc1 10=20;20,21=21",
"CCSC(C(F)(F)F)=[O+:21][H:20].Cc1cn2nc(-c3ccccc3)ccc2[n:10]1>>CCSC(C(F)(F)F)=[O:21].Cc1cn2nc(-c3ccccc3)ccc2[n+:10]1[H:20] 10=20;20,21=21",
"Cc1ccc([N+:21](=CN(C)C)[H:20])cc1.O=S1(=O)OC(c2cc(Br)c(O)c(Br)c2)(c2cc(Br)c([O-:10])c(Br)c2)c2ccccc21>>Cc1ccc([N:21]=CN(C)C)cc1.O=S1(=O)OC(c2cc(Br)c(O)c(Br)c2)(c2cc(Br)c([O:10][H:20])c(Br)c2)c2ccccc21 10=20;20,21=21",
"C=C(C)C=C(C)[O:21][H:20].CCC[N:10](CC(C)O)CC(C)O>>C=C(C)C=C(C)[O-:21].CCC[N+:10](CC(C)O)(CC(C)O)[H:20] 10=20;20,21=21",
"CCCCCCCCCCCCC[NH2+:21][H:20].CCCCCCC[NH:10]Cc1ccc(C)cc1>>CCCCCCCCCCCCC[NH2:21].CCCCCCC[NH+:10](Cc1ccc(C)cc1)[H:20] 10=20;20,21=21",
"COc1cc2c(cc1OC)[NH:10]CC2.O=C([C@@H]1O[C@H](Oc2cccc3[nH+]cccc23)[C@@H](O)[C@H](O)[C@H]1O)[O:21][H:20]>>COc1cc2c(cc1OC)[NH+:10]([H:20])CC2.O=C([C@@H]1O[C@H](Oc2cccc3[nH+]cccc23)[C@@H](O)[C@H](O)[C@H]1O)[O-:21] 10=20;20,21=21",
"C[n+]1ccccc1/C=N/[O-:10].Cc1cccc(C)c1NC(=O)C[N+:21](C)(C)[H:20]>>C[n+]1ccccc1/C=N/[O:10][H:20].Cc1cccc(C)c1NC(=O)C[N:21](C)C 10=20;20,21=21",
"NC(=S)C(Cc1ccccc1)[NH2:10].O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>NC(=S)C(Cc1ccccc1)[NH2+:10][H:20].O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"O=[N+]([O-])c1ccc([O-])c(C[N+:21]2([H:20])CCOCCOCCOCCOCCOCC2)c1.c1c[nH+]c(P(c2[nH]cc[nH+]2)c2[nH]cc[n:10]2)[nH]1>>O=[N+]([O-])c1ccc([O-])c(C[N:21]2CCOCCOCCOCCOCCOCC2)c1.c1c[nH+]c(P(c2[nH]cc[nH+]2)c2[nH]cc[n+:10]2[H:20])[nH]1 10=20;20,21=21",
"C=C[C@H]1C[N:10]2CC[C@@H]1C[C@H]2[C@H](O)c1ccnc2ccc(OC)cc12.Cc1nc(C(=O)[O-])ccc1[O:21][H:20]>>C=C[C@H]1C[N+:10]2([H:20])CC[C@@H]1C[C@H]2[C@H](O)c1ccnc2ccc(OC)cc12.Cc1nc(C(=O)[O-])ccc1[O-:21] 10=20;20,21=21",
"CC(C)C(O[C@H]1O[C@@H](C(=O)[O-:10])[C@H](O)[C@@H](O)[C@@H]1O)C(C)C.COc1cc[n+:21]([H:20])cc1>>CC(C)C(O[C@H]1O[C@@H](C(=O)[O:10][H:20])[C@H](O)[C@@H](O)[C@@H]1O)C(C)C.COc1cc[n:21]cc1 10=20;20,21=21",
"C[C:21](C1=CC=CC(Cl)=C1)([N+](=O)[O-])[H:20].Clc1ccc(C(Nc2ccccc2)[O-:10])cc1>>C[C-:21](C1=CC=CC(Cl)=C1)[N+](=O)[O-].Clc1ccc(C(Nc2ccccc2)[O:10][H:20])cc1 10=20;20,21=21",
"N/C(Cc1ccccc1)=[N:10]/O.Nc1nnn[n:21]1[H:20]>>N/C(Cc1ccccc1)=[N+:10](/O)[H:20].Nc1nnn[n-:21]1 10=20;20,21=21",
"CCSC(O)[OH+:21][H:20].C[NH:10]CCCN>>CCSC(O)[OH:21].C[NH+:10](CCCN)[H:20] 10=20;20,21=21",
"CC(C)NCCCCCC[NH+:21](C(C)C)[H:20].CC(O)C(=O)C1=Nc2c(nc(N)[n:10]c2[O-])NC1>>CC(C)NCCCCCC[NH:21]C(C)C.CC(O)C(=O)C1=Nc2c(nc(N)[n+:10]([H:20])c2[O-])NC1 10=20;20,21=21",
